US05409943
N-(3-(4-Fluorobenzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride
A mixture of 2-amino-3-(4-fluorobenzyloxy)pyridine (4.36 g, 20 mmol) and ethyl 2methylphenylacetimidate hydrochloride (4.69 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil, which was purified by flash chromatography (chloroform/methanol) to obtain the product (1.2 g), m.p. 199°-200° C.

reactant | 2-amino-3-(4-fluorobenzyloxy)pyridine | 20 mmol, 4.36 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)F | C12H11FN2O
reactant | ethyl 2methylphenylacetimidate hydrochloride | 22 mmol, 4.69 g | Cl.CC1=C(C=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(4-Fluorobenzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride | 1.2 g | Cl.FC1=CC=C(COC=2C(=NC=CC2)NC(CC2=C(C=CC=C2)C)=N)C=C1 | InChI=1S/C21H20FN3O.ClH/c1-15-5-2-3-6-17(15)13-20(23)25-21-19(7-4-12-24-21)26-14-16-8-10-18(22)11-9-16;/h2-12H,13-14H2,1H3,(H2,23,24,25);1H
